US05449784
A stirred solution of 2.0 grams (0.019 mole) of phenylhydrazine and 11.1 grams (0.092 mole-5 eq.) of trimethyl orthoacetate (TMOA) in 20 mL of methanol was heated at reflux for about six hours. The reaction mixture was then allowed to cool to ambient temperature where it stirred for about 18 hours. The reaction mixture was again warmed to reflux where it stirred for another six hours, until the reaction to the intermediate N-phenyl-N'-(1-methoxyethylidene)hydrazine was complete. The progress of the reaction was monitored by gas chromatograph (GC). After this time, the reaction mixture was cooled in an ice-water bath (0° C.), and 1.5 grams (0.023 mole- 1.2 eq.) of sodium cyanate was added. Upon completion of addition, 1.6 grams (0.026 mole-1.4 eq.) of acetic acid was added dropwise. The reaction mixture was then stirred at the ice-water bath temperature for about 10 minutes and then was allowed to warm to ambient temperature. After this time, two mL of water was added to the reaction mixture. Analysis of the reaction mixture by GC showed formation of the targeted compound. One mL of acetic acid was then added to the reaction mixture, followed by the addition of two mL of water. Upon completion of addition, the reaction mixture was stirred at ambient temperature for about 18 hours. The reaction mixture was concentrated under reduced pressure, yielding 2.5 grams (75.9% yield) of 4,5-dihydro-3-methyl-1-phenyl-1,2,4-triazol-5(1H)-one.

reactant | phenylhydrazine | 0.019 mole, 2.0 grams | C1(=CC=CC=C1)NN | C6H8N2
reactant | trimethyl orthoacetate | 11.1 grams | C(C)(OC)(OC)OC | C5H12O3
reactant | N-phenyl-N'-(1-methoxyethylidene)hydrazine | C1(=CC=CC=C1)NN=C(C)OC | C9H12N2O
reactant | sodium cyanate | 1.5 grams | [O-]C#N.[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | two mL | O | H2O
solvent | acetic acid | One mL | C(C)(=O)O | C2H4O2
solvent | water | two mL | O | H2O
solvent | acetic acid | 1.6 grams | C(C)(=O)O | C2H4O2
product | 4,5-dihydro-3-methyl-1-phenyl-1,2,4-triazol-5(1H)-one | 2.5 grams, 75.9% yield | CC1=NN(C(N1)=O)C1=CC=CC=C1 | C9H9N3O
